US08426420B2
(i) 4-((S)-4-Carboxy-2-{[5-(1-carboxy-ethoxy)-1-phenyl-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 1.50 g 4-{(S)-4-tert-butoxycarbonyl-2-[(5-hydroxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester in 12 ml DMF were added 670 μl ethyl 2-bromopropionate and 3.2 g cesium carbonate. After stirring at RT for 24 h the solution was diluted with ethyl acetate and extracted with aqueous LiCl (4 w/w). The crude product obtained after evaporation of the solvent was dissolved in THF and treated with 1 N NaOH. When conversion was complete (4 h) Amberlite IR-120®was added, the suspension filtrated and the filtrate evaporated to give the crude product (1.56 g)

reactant | 4-{(S)-4-tert-butoxycarbonyl-2-[(5-hydroxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 1.50 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)O)C1=CC=CC=C1)=O | C26H35N5O7
reactant | ethyl 2-bromopropionate | 670 μl | BrC(C(=O)OCC)C | C5H9BrO2
reactant | cesium carbonate | 3.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-((S)-4-Carboxy-2-{[5-(1-carboxy-ethoxy)-1-phenyl-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester | 1.56 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=NN(C(=C1)OC(C)C(=O)O)C1=CC=CC=C1)=O | C25H31N5O9
